US04837394
3,5-Dimethylphenyldiphenylphosphine
In a 3-neck 1 liter flask equipped with blade stirrer, nitrogen inlet, Claissen adaptor, condenser, drying tube and constant pressure dropping funnel, was placed 6.67 g (0.274 g atoms) of magnesium turnings. Under a nitrogen flow, the glassware was dried with heating via a heat gun. To the magnesium was added a portion of a solution of 55.5 g (0.30 mol) of 5-bromo-m-xylene in 150 ml dry THF (tetrahydrofuran). Reaction was initiated with external heating and the balance of the solution was added dropwise over approximately 30 min, maintaining gentle reflux. the mixture was then stirred for another 1 hr after which a solution of 41.3 g (0.188 mol) of chlorodiphenyl-phosphine in 150 ml of dry THF was added over approximately 10 min. The mixture was then heated at reflux for 2 hr, cooled and poured into ice. The mixture was neutralized with concentrated HCl and nitrogen was bubbled through the mixture overnight. The organic layer was taken up in methylene chloride and separated from the aqueous layer. Concentrating the organic layer afforded an oil which crystallized on standing. After triturating with an equal volume of methanol, the solid was collected and recrystallized from methanol. The yield of 3,5-dimethylphenyldiphenylphosphine was 37.5 g (68.7% of theory); mp=67°-9° C.

reactant | magnesium | [Mg] | Mg
reactant | 5-bromo-m-xylene | 0.30 mol, 55.5 g | BrC=1C=C(C=C(C1)C)C | C8H9Br
reactant | chlorodiphenyl-phosphine | 0.188 mol, 41.3 g | ClP(C1=CC=CC=C1)C1=CC=CC=C1 | C12H10ClP
reactant | HCl | Cl | ClH
solvent | THF | 150 ml | O1CCCC1 | C4H8O
solvent | THF | 150 ml | O1CCCC1 | C4H8O
product | 3,5-Dimethylphenyldiphenylphosphine | CC=1C=C(C=C(C1)C)P(C1=CC=CC=C1)C1=CC=CC=C1 | C20H19P
